US04093812
Stir 4.14 g of 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde together with 2.0 g. of thiosemicarbazide, 2 drops of glacial acetic acid and 40 ml of ethanol for 2 hours at 50° C and then for 4 days at room temperature. Dilute the resulting product with water to produce a 95% yield of 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde-thiosemicarbazone [m.p. above 350° C (with decomposition)].

reactant | 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde | 4.14 g | [N+](=O)([O-])C1=CC=C(O1)C1=NNC=C1C=O | C8H5N3O4
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | ethanol | 40 ml | C(C)O | C2H6O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde-thiosemicarbazone | 95% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NNC=C1C=NNC(=S)N | C9H8N6O3S
